US08703758B2
A) tert-butyl [(1S)-2-({1-[5-(cyclobutylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate
To a solution of tert-butyl [(1S)-2-{[1-(5-hydroxy-1,3-benzoxazol-2-yl)piperidin-4-yl]oxy}-1-methylethyl]carbamate (389 mg) in DMF (5 mL) were added potassium carbonate (413 mg) and (bromomethyl)cyclobutane (297 mg), and the mixture was stirred with heating at 60° C. for 6 hr under a nitrogen atmosphere. The reaction mixture was allowed to cool to room temperature, diluted with ethyl acetate, washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (380 mg).

reactant | tert-butyl [(1S)-2-{[1-(5-hydroxy-1,3-benzoxazol-2-yl)piperidin-4-yl]oxy}-1-methylethyl]carbamate | 389 mg | OC=1C=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)NC(OC(C)(C)C)=O)C1 | C20H29N3O5
reactant | potassium carbonate | 413 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (bromomethyl)cyclobutane | 297 mg | BrCC1CCC1 | C5H9Br
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl [(1S)-2-({1-[5-(cyclobutylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate | 380 mg | C1(CCC1)COC=1C=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)NC(OC(C)(C)C)=O)C1 | C25H37N3O5
